US06544980B2
3.1 Synthesis of 2-(4-(2-bromo-6-phthalimidohexanoyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-4-methyl-valeric acid t-butyl ester
Combine 2-(4-amino-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-4-methyl-valeric acid, tert-butyl ester (0.34 mmol), 2-bromo-6-phthalimidohexanoic acid (0.189 g, 0.56 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.106 g, 0.55 mmol), and 1-hydroxybenztriazole hydrate ((75 mg, 0.56 mmol) in dicloromethane (8 mL). After 17 hours, evapoarte in vacuo to give a residue, partition the residue between ethyl aceate and an aqueous 5% sulfuric acid solution (about 20 mL). Separate the layers, extract the organic layer with a saturate aqueiosu sodium bicarbonate solution and then brine, dry over Na2SO4, filter, and evaporate in vacuo to give the title compound.

reactant | 2-(4-amino-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-4-methyl-valeric acid, tert-butyl ester | 0.34 mmol | NC1CC2=C(CN(C1=O)C(C(=O)OC(C)(C)C)CC(C)C)C=CC=C2 | C20H30N2O3
reactant | 2-bromo-6-phthalimidohexanoic acid | 0.56 mmol, 0.189 g | BrC(C(=O)O)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C14H14BrNO4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.55 mmol, 0.106 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenztriazole hydrate | O.ON1N=NC2=C1C=CC=C2
solvent | dicloromethane | 8 mL | ClCCl | CH2Cl2
product | 2-(4-(2-bromo-6-phthalimidohexanoyl-amino)-3-oxo-1,3,4,5-tetrahydro-benzo[c]azepin-2-yl)-4-methyl-valeric acid t-butyl ester | C(C)(C)(C)OC(C(CC(C)C)N1CC2=C(CC(C1=O)NC(C(CCCCN1C(C=3C(C1=O)=CC=CC3)=O)Br)=O)C=CC=C2)=O | C34H42BrN3O6
